US08865713B2
Step B: 4-Chloro-1,3-dihydro-benzoimidazol-2-one.
To a solution of 3-chloro-benzene-1,2-diamine (0.820 g, 5.75 mmol) and THF (25 mL), was added carbonyl diimidazole (1.12 g, 6.90 mmol) at 0° C. The mixture was stirred for 16 h and allowed to warm to 23° C. A solution of 1M aqueous HCl (25 mL) was added to the reaction mixture at 0° C., followed by water (100 mL) and the mixture was stirred for 1 h. The precipitated solid was filtered and dried under high vacuum for 18 h to yield the titled compound, which was used in the next step without further purification (0.800 g, 83%). MS (ESI/CI): mass calcd. for C7H5ClN2O, 168.0; m/z found, 169.1 [M+H]+. 1H NMR (500 MHz, DMSO-d6): 11.13 (s, 1H), 10.88 (s, 1H), 7.00-6.86 (m, 3H).

reactant | 3-chloro-benzene-1,2-diamine | 5.75 mmol, 0.820 g | ClC1=C(C(=CC=C1)N)N | C6H7ClN2
reactant | THF | 25 mL | C1CCOC1 | C4H8O
reactant | carbonyl diimidazole | 6.90 mmol, 1.12 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | HCl | 1M, 25 mL | Cl | ClH
solvent | water | 100 mL | O | H2O
product | 4-Chloro-1,3-dihydro-benzoimidazol-2-one | ClC1=CC=CC=2NC(NC21)=O | C7H5ClN2O
